US08283353B2
4′-({4-[4-hydroxymethylbenzyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
A mixture of methyl 4-({6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}methyl)benzoate (2.8 g), 1N aqueous sodium hydroxide solution (30 mL), tetrahydrofuran (30 mL) and methanol (30 mL) was stirred at 50° C. for 3 hr. 1 N Hydrochloric acid was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The obtained ethyl acetate layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The obtained residue was dissolved in tetrahydrofuran (50 mL), N-methylmorpholine (0.67 mL) and ethyl chlorocarbonate (0.58 mL) was added at 0° C., and the mixture was stirred at the same temperature for 2 hr. The reaction mixture was cooled to −15° C., sodium borohydride (0.57 g) and methanol (10 mL) were added, and the mixture was allowed to gradually warm to room temperature. The reaction mixture was extracted with saturated aqueous ammonium chloride solution and ethyl acetate. The ethyl acetate layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give the title compound as a colorless solid (1.86 g, 70%).

reactant | methyl 4-({6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}methyl)benzoate | 2.8 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC=1C(N(C=2N(C1CCC)N=CN2)CC2=CC=C(C(=O)OC)C=C2)=O | C31H27N5O3
reactant | sodium hydroxide | 1N, 30 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
reactant | Hydrochloric acid | 1 N | Cl | ClH
solvent | methanol | 30 mL | CO | CH4O
product | 4′-({4-[4-hydroxymethylbenzyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 1.86 g, 70% | OCC1=CC=C(CN2C=3N(C(=C(C2=O)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N)CCC)N=CN3)C=C1 | C30H27N5O2
